US04732998
Tetraethyl (2-methoxyethoxymethylene)-bisphosphonate
Diethyl phosphite (18.0 ml) was added dropwise at 20° C. to a stirred suspension of 55% sodium hydride (5.45 g) in dry tetrahydrofuran (100 ml). After stirring for a further 15 minutes, the mixture was cooled in ice, and dichloromethyl 2-methoxyethyl ether (7.15 g) was added during 15 minutes. The mixture was stirred at room temperature for 1 hour, diluted with saturated aqueous sodium chloride and extracted with chloroform. The organic phase was dried and evaporated to leave an oil which was purified by chromatography on silica gel. The pure title compound was isolated as a colourless oil.

reactant | Diethyl phosphite | 18.0 ml | P(OCC)(OCC)[O-]
reactant | sodium hydride | 5.45 g | [H-].[Na+]
reactant | dichloromethyl 2-methoxyethyl ether | 7.15 g | COCCOC(Cl)Cl | C4H8Cl2O2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | sodium chloride | [Cl-].[Na+]
product | Tetraethyl (2-methoxyethoxymethylene)-bisphosphonate | COCCOC(P(OCC)(OCC)=O)P(OCC)(OCC)=O | C12H28O8P2
